US07119205B2
2-chloro-3-{4-[(1-cyclopropyl-4-hydroxypiperidin-4-yl)methoxy]phenyl}-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile
A mixture of 2-chloro-4-hydroxy-3-{4-[(4-hydroxy-piperidin-4-yl)methoxy]phenyl}-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile TFA salt (70 mg, 0.128 mmol),[(1-ethoxycyclopropyl)oxy]trimethylsilane (0.103 mL, 0.513 mmol), 3A molecular sieves (30 mg), and NaCNBH3 (32 mg, 0.513 mmol) in MeOH (1 mL) was heated to reflux for 12 h. The reaction was then quenched by the addition of H2O (1 mL) and EtOAc (1 mL). The layers were separated, and the aqueous was extracted with additional EtOAc (2×1 mL). The combined organic layers were dried with anhydrous Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by RP-HPLC to give the title compound. MS (ESI) m/e 472 (M+H)+; 1H NMR (300 MHz, DMSO-d6) δ ppm 0.84 (m, 2H), 0.94 (m, 2H), 1.80 (d, J=12.0 Hz, 2H), 1.94 (m, 2H), 2.97, (m, 1H), 3.40 (m, 4H), 3.86 (s, 2H), 5.22 (s, 1H), 6.92 (d, J=8.82 Hz, 2H), 7.22 (d, J=8.82 Hz, 2H), 8.81 (s, 1H), 10.77 (s, 1H).

reactant | 2-chloro-4-hydroxy-3-{4-[(4-hydroxy-piperidin-4-yl)methoxy]phenyl}-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile TFA salt | 0.128 mmol, 70 mg | OC(=O)C(F)(F)F.ClC1=C(C2=C(NC(C(=C2O)C#N)=O)S1)C1=CC=C(C=C1)OCC1(CCNCC1)O
reactant | [(1-ethoxycyclopropyl)oxy]trimethylsilane | 0.513 mmol, 0.103 mL | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | NaCNBH3 | 0.513 mmol, 32 mg | [BH3-]C#N.[Na+]
solvent | MeOH | 1 mL | CO | CH4O
product | 2-chloro-3-{4-[(1-cyclopropyl-4-hydroxypiperidin-4-yl)methoxy]phenyl}-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile | ClC1=C(C2=C(NC(C(=C2O)C#N)=O)S1)C1=CC=C(C=C1)OCC1(CCN(CC1)C1CC1)O | C23H22ClN3O4S
